US03962269
Preparation of N,N,2-Trimethyl-α-phenyl-m-dioxane-5-methylamine
2-(α-Dimethylamino)benzyl-1,3-propanediol, 2.5 g. (0.012 mole), was dissolved in 25 ml. of acetonitrile. Water, 7.68 g. (0.48 mole), 10 ml. of acetaldehyde and 3.01 ml. (0.024 mole) of boron trifluoride etherate were added to the reaction mixture and the mixture was allowed to stir overnight. The reaction mixture was heated on the steam bath for 1 hour. The cooled mixture was poured into ammonium hydroxide and the basic mixture was extracted with ether. The ether extract was washed with water, dried over magnesium sulfate and evaporated to a solid residue. The solid was recrystallized from hexane to yield 0.44 g. of N,N,2-trimethyl-m-dioxane-5-methylamine, mp about 140°-143° C.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | boron trifluoride etherate | 0.024 mole | B(F)(F)F.CCOCC
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | N,N,2-trimethyl-m-dioxane-5-methylamine | CN(CC1COC(OC1)C)C | C8H17NO2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | Water | O | H2O
product | N,N,2-Trimethyl-α-phenyl-m-dioxane-5-methylamine | CN(C(C1COC(OC1)C)C1=CC=CC=C1)C | C14H21NO2
